data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_126406_1,[C:1]([C:3]([H:16])([H:18])[H:19])([C:4]([H:17])([H:20])[H:21])([C:6]12[N:5]([H:10])[N:9]1[C:7]([C:2]([H:13])([H:14])[H:15])=[C:8]2[H:12])[H:11]>>[C:1]([C:3]([H:16])([H:18])[H:19])([C:4]([H:17])([H:20])[H:21])([c:6]1[n:5]([H:10])[n:9][c:7]([C:2]([H:13])([H:14])[H:15])[c:8]1[H:12])[H:11],19.82147000003522
MR_110679_1,[C@:1]([C:2]([H:13])([H:14])[H:15])([N:5]([C:3]([H:16])([H:17])[H:18])[H:10])(/[C:6](=[C:7](\[C:4]([H:19])([H:20])[H:21])[H:12])[H:11])[O:8][H:9]>>[C:1](\[C:2]([H:13])([H:14])[H:15])(=[C:6](\[C@@:7]([C:4]([H:19])([H:20])[H:21])([N:5]([C:3]([H:16])([H:17])[H:18])[H:10])[H:12])[H:11])[O:8][H:9],67.52904000000456
MR_644088_0,[C:1]1([C:3]([H:11])([H:12])[H:13])([O:5][N:4]([H:7])[H:8])[C:2]([H:9])([H:10])[O:6]1>>[C:1]([C:2]([O:5][N:4]([H:7])[H:8])([H:9])[H:10])([C:3]([H:11])([H:12])[H:13])=[O:6],50.12658249999703
MR_250992_0,[C:1]([N:2]([H:8])[H:9])([C:3](=[C:4]([H:11])[H:12])[H:10])([O:5][H:6])[H:7]>>[C:1](=[C:3](/[C:4]([N:2]([H:8])[H:9])([H:11])[H:12])[H:10])(\[O:5][H:6])[H:7],67.69846500000483
MR_500355_1,[C:1]1([O:6][H:8])([H:9])[C:2]([H:11])([H:12])[C:3](/[C:5](=[N:7]\[H:10])[H:14])=[C:4]1[H:13]>>[C:1](=[C:4](\[C:3](=[C:2]([H:11])[H:12])/[C:5](=[N:7]\[H:10])[H:14])[H:13])(\[O:6][H:8])[H:9],39.02736250001951
MR_219854_1,[C:1]1([C:3]([H:18])([H:19])[H:20])([H:11])[C:6]([N:4]([N:7]([H:12])[H:13])[H:9])([N:5]([C:2]([H:15])([H:16])[H:17])[H:10])[N:8]1[H:14]>>[C:1]([C:3]([H:18])([H:19])[H:20])([N:5]([C:2]([H:15])([H:16])[H:17])[H:10])(/[C:6]([N:4]([N:7]([H:12])[H:13])[H:9])=[N:8]\[H:14])[H:11],67.55414000001252
MR_340285_0,[C:1]([C:3]([C:2]([H:13])([H:14])[H:15])=[O:7])(/[C:4]([C:5](=[O:8])[H:10])=[N:6]/[H:9])([H:11])[H:12]>>[C:1]1([H:11])([H:12])[C@:3]([C:2]([H:13])([H:14])[H:15])([O:7][C:5](=[O:8])[H:10])[C:4]1[N:6][H:9],66.5990849999983
MR_278566_0,[C:1](/[N:7]=[N:5]/[N:6]=[C:3](\[C:2]([H:13])([H:14])[H:15])[N:4]([H:8])[H:9])([H:10])([H:11])[H:12]>>[C:1]([N:7]1[C:3]([C:2]([H:13])([H:14])[H:15])([N:4]([H:8])[H:9])[N:6]=[N:5]1)([H:10])([H:11])[H:12],28.533052500012843
MR_647094_0,[C:1]([C:4]([C:2]([H:14])([H:15])[H:16])=[C:3]([N:5]([H:8])[H:9])/[C:6](=[N:7]\[H:10])[H:11])([H:12])([H:13])[H:17]>>[C:1]([C:4]1([C:2]([H:14])([H:15])[H:16])[C:3]([N:5]([H:8])[H:9])=[C:6]([H:11])[N:7]1[H:10])([H:12])([H:13])[H:17],48.48755249999755
MR_624538_1,[C:1]([C:3]([C:4]([C:2]([H:13])([H:14])[H:15])=[O:8])=[O:7])(/[C:5](=[N:6]/[H:9])[H:12])([H:10])[H:11]>>[C:1]1([H:10])([H:11])[C:3](=[O:7])[C:4]([C:2]([H:13])([H:14])[H:15])([H:12])[O:8]/[C:5]1=[N:6]\[H:9],68.66104999996438
MR_679773_0,[C:1]([O:4][H:6])([N:5]([C:2](=[O:3])[H:10])[H:9])([H:7])[H:8]>>[C:1]([O:3]/[C:2](=[N:5]/[H:9])[H:10])([O:4][H:6])([H:7])[H:8],59.454997500022415
MR_173960_0,[C:1]1([C:3]([H:14])([H:15])[H:16])([H:9])[C:6]([C:4]([H:17])([H:18])[H:19])([N:5]([C:2]([H:11])([H:12])[H:13])[H:8])[N:7]1[H:10]>>[C:1]([C:3]([H:14])([H:15])[H:16])([N:5]([C:2]([H:11])([H:12])[H:13])[H:8])(/[C:6]([C:4]([H:17])([H:18])[H:19])=[N:7]/[H:10])[H:9],71.51303750000466
MR_205109_1,[C:1]([C:3]([N:2]([O:4][O:5][H:7])[H:8])=[O:6])([H:9])([H:10])[H:11]>>[C:1]([C:3]1([O:6][O:5][H:7])[N:2]([H:8])[O:4]1)([H:9])([H:10])[H:11],45.72278749998674
MR_127460_0,[C:1]([C:3](=[C:2]([N:4]([H:9])[H:10])[N:5]([H:7])[H:8])[N:6]([H:11])[H:12])([H:13])([H:14])[H:15]>>[C:1](/[C:3]([C:2]([N:4]([H:9])[H:10])([N:5]([H:7])[H:8])[H:12])=[N:6]/[H:11])([H:13])([H:14])[H:15],68.16595250000162
MR_400837_0,[C:1]1([O:7][H:9])([O:8][H:10])[O:5][C:3]([C:2]([H:12])([H:13])[H:14])=[C:4]([H:11])[O:6]1>>[C:1]([O:5]/[C:3]([C:2]([H:12])([H:13])[H:14])=[C:4](\[O:6][H:9])[H:11])(=[O:7])[O:8][H:10],24.30683999998223
MR_600480_2,[C@@:1]([N:3]([H:10])[H:11])(/[C:4](=[C:5](\[C:2]([H:14])([H:15])[H:16])[H:13])[H:12])([O:6][O:7][H:8])[H:9]>>[C@@:1]1([N:3]([H:10])[H:11])([H:9])[C@@:4]([O:6][O:7][H:8])([H:12])[C@@:5]1([C:2]([H:14])([H:15])[H:16])[H:13],59.02139499997574
MR_96139_0,[N:1](/[C:2]([N:4]([H:11])[H:12])=[C:6](\[N:5]([H:13])[H:14])[H:15])([N:3]([H:9])[H:10])[C:7](=[C:8]([H:17])[H:18])[H:16]>>[N:1](=[C:2](/[N:4]([H:11])[H:12])[C:6]([N:5]([H:13])[H:14])([C:7](=[C:8]([H:17])[H:18])[H:16])[H:15])\[N:3]([H:9])[H:10],67.41922750003212
MR_553454_0,[C:1]([N:2]([C:3](=[O:6])[H:9])[O:5][H:8])([C:4](=[O:7])[H:12])([H:10])[H:11]>>[C:1]([N:2]([C:4](=[O:7])[H:12])[O:5][H:8])([C:3](=[O:6])[H:9])([H:10])[H:11],72.85086749997987
MR_694941_1,[C:1]1([H:9])([H:10])[C:5]([C:2]([H:11])([H:12])[H:13])(/[C:6]([C:3]([H:14])([H:15])[H:16])=[N:4]/[H:8])[O:7]1>>[C:1]1([H:9])([H:10])[N:4]([H:8])[C:6]([C:3]([H:14])([H:15])[H:16])=[C:5]([C:2]([H:11])([H:12])[H:13])[O:7]1,52.78090750000132
MR_242398_0,[C:1]([N:3]([O:7][H:8])[H:9])(/[C:4]([C:2]([H:15])([H:16])[H:17])=[C:6](/[N:5]([H:10])[H:11])[H:14])([H:12])[H:13]>>[C:1]1([H:12])([H:13])[N:3]([O:7][H:8])[C:4]1([C:2]([H:15])([H:16])[H:17])[C:6]([N:5]([H:10])[H:11])([H:9])[H:14],70.28501999996621
